US07285563B2
N-(8-Fluoro-3-methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 8-fluoro-3-methylisoquinolin-5-amine (Description 76) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to Description 61. m/z (ES+) 378 (M+H)+.

reactant | 8-fluoro-3-methylisoquinolin-5-amine | FC1=CC=C(C=2C=C(N=CC12)C)N | C10H9FN2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(8-Fluoro-3-methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | FC=1C=CC(=C2C=C(N=CC12)C)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C19H15F4N3O
